US06130217
1-Phenylcyclopentanol (16.3 g, 100 mmol) was treated with NaN3 (s) (20 g, 310 mmol) and TFA (65 g) in CHCl3 (170 mL) at about 0-5° C., according to the procedure described in Preparation 87, to produce crude 1-phenyl-cyclohexylazide (18.6 g, GC-MS m/z 187).

reactant | 1-Phenylcyclopentanol | 100 mmol, 16.3 g | C1(=CC=CC=C1)C1(CCCC1)O | C11H14O
reactant | NaN3 | 310 mmol, 20 g | [N-]=[N+]=[N-].[Na+]
reactant | TFA | 65 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 170 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-phenyl-cyclohexylazide | 18.6 g | C1(=CC=CC=C1)C1(CCCCC1)N=[N+]=[N-] | C12H15N3
